US08859544B2
Methyl 2-amino-5-({1-[3-(methoxycarbonyl)phenyl]-2-methylindolizin-3-yl}carbonyl)benzoate
0.229 g (1.27 mmol) of [3-(methoxycarbonyl)phenyl]boronic acid, 0.492 g (2.12 mmol) of potassium phosphate dihydrate and 0.024 g (0.02 mmol) of tetrakis(triphenylphosphine)palladium are added, under an argon atmosphere at ambient temperature, to 0.410 g (1.06 mmol) of methyl 2-amino-5-[(1-bromo-2-methylindolizin-3-yl)carbonyl]benzoate in 8 ml of a DME/H2O (5/1) mixture. The reaction medium is heated at 90° C. for 18 hours. The reaction medium is extracted with dichloromethane, washed with a saturated aqueous solution of sodium chloride, dried over sodium sulphate, filtered, and then concentrated under reduced pressure. The solid obtained is purified by silica gel column chromatography, elution being carried out with dichloromethane. 309 mg of a yellow solid are obtained.

reactant | [3-(methoxycarbonyl)phenyl]boronic acid | 1.27 mmol, 0.229 g | COC(=O)C=1C=C(C=CC1)B(O)O | C8H9BO4
reactant | potassium phosphate dihydrate | 2.12 mmol, 0.492 g | O.O.P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | methyl 2-amino-5-[(1-bromo-2-methylindolizin-3-yl)carbonyl]benzoate | 1.06 mmol, 0.410 g | NC1=C(C(=O)OC)C=C(C=C1)C(=O)C1=C(C(=C2C=CC=CN12)Br)C | C18H15BrN2O3
solvent | DME H2O | 8 ml | COCCOC.O
catalyst | tetrakis(triphenylphosphine)palladium | 0.02 mmol, 0.024 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | Methyl 2-amino-5-({1-[3-(methoxycarbonyl)phenyl]-2-methylindolizin-3-yl}carbonyl)benzoate | 309 mg | NC1=C(C(=O)OC)C=C(C=C1)C(=O)C1=C(C(=C2C=CC=CN12)C1=CC(=CC=C1)C(=O)OC)C | C26H22N2O5
